US09302989B2
(Z)—N-(4-(N′-hydroxycarbamimidoyl)phenyl)isoindoline-2-carboxamide
In a 25 mL pressure tube were mixed N-(4-cyanophenyl)isoindoline-2-carboxamide (500 mg, 1.899 mmol), hydroxylamine hydrochloride (264 mg, 3.80 mmol), and triethylamine (1.323 ml, 9.50 mmol) in ethanol (6 ml)/water (0.5 ml). The reaction vessel was sealed and heated at 80° C. for four hours. The reaction mixture was diluted with water and the solid was filtered off with water washes. HPLC purification provided the title compound.

reactant | N-(4-cyanophenyl)isoindoline-2-carboxamide | 1.899 mmol, 500 mg | C(#N)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C16H13N3O
reactant | hydroxylamine hydrochloride | 3.80 mmol, 264 mg | Cl.NO
reactant | triethylamine | 9.50 mmol, 1.323 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 0.5 ml | O | H2O
product | (Z)—N-(4-(N′-hydroxycarbamimidoyl)phenyl)isoindoline-2-carboxamide | O\N=C(/N)\C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C16H16N4O2
